US07589089B2
Step 2: N-[(3,4-Dichloro-phenylcarbamoyl)-methyl]-N-phenyl-3-trifluoromethyl benzamide
To N-(3,4-dichloro-phenyl)-2-phenylamino-acetamide (73 mg) in THF (3.1 mL) was added tiethylamine (52 μL) and 3-trifluoromethylbenzoyl chloride (62 mg) and the reaction mixture was stirred at room temperature for 30 minutes. To the mixture was then added water under precipitation occurred and the mixture was stirred for 5 minutes. Then the precipitate was isolated by filtration and washed with a mixture water-ethanol (1:1) to yield the title compound as a white solid (64 mg, mp=130-132° C.).

reactant | N-(3,4-dichloro-phenyl)-2-phenylamino-acetamide | 73 mg | ClC=1C=C(C=CC1Cl)NC(CNC1=CC=CC=C1)=O | C14H12Cl2N2O
reactant | 3-trifluoromethylbenzoyl chloride | 62 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | THF | 3.1 mL | C1CCOC1 | C4H8O
product | N-[(3,4-Dichloro-phenylcarbamoyl)-methyl]-N-phenyl-3-trifluoromethyl benzamide | 64 mg | ClC=1C=C(C=CC1Cl)NC(=O)CN(C(C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C22H15Cl2F3N2O2
